US09359375B2
A mixture of (R)-tert-butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate (970 mg, 2.48 mmol), pyridine-2-boronic acid pinacol ester (505 mg, 2.46 mmol), dppf (275 mg, 0.496 mmol), Cs2CO3 (1.00 g, 3.06 mmol), Pd(OAc)2 (56 mg, 0.249 mmol) and CuCl (25 mg, 0.252 mmol) in DMF (10 mL) was degassed with argon, then was stirred at 100 C for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, which was eluted with 20-100% EtOAc in hexane to give (R)-tert-butyl 1-amino-1-oxo-3-(4-(pyridin-2-yl)phenyl)propan-2-ylcarbamate (281 mg).

reactant | (R)-tert-butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate | 2.48 mmol, 970 mg | NC([C@@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O)=O | C14H19IN2O3
reactant | pyridine-2-boronic acid pinacol ester | 2.46 mmol, 505 mg | N1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
reactant | Cs2CO3 | 3.06 mmol, 1.00 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | dppf | 0.496 mmol, 275 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd(OAc)2 | 0.249 mmol, 56 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuCl | 0.252 mmol, 25 mg | Cl[Cu]
product | (R)-tert-butyl 1-amino-1-oxo-3-(4-(pyridin-2-yl)phenyl)propan-2-ylcarbamate | 281 mg | NC([C@@H](CC1=CC=C(C=C1)C1=NC=CC=C1)NC(OC(C)(C)C)=O)=O | C19H23N3O3
